US07608563B2
Under nitrogen atmosphere, in dry dimethylsulfoxide (15 mL) was suspended 1.92 g (48.0 mmol) of 60% sodium hydride washed with hexane, after stirring the suspension at 85° C. for 30 minutes, it was cooled to room temperature and then, in an ice bath, a dry dimethylsulfoxide (35 mL) solution containing 17.2 g (48.2 mmol) of methyl(triphenyl)phosphonium bromide was gradually added dropwise thereto. After stirring at room temperature for 20 minutes, 4.83 mL (40.1 mmol) of commercially available 2-methoxybenzaldehyde was added dropwise thereto, and the resulting mixture was stirred at room temperature for 1 hour and then at 65° C. for 3 hours. The reaction mixture was poured into ice water, and extracted with ethyl acetate. The organic layer was successively washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed, and the obtained residue was purified by silica gel column chromatography (Wako gel C-100, hexane-ethyl acetate, gradient) to obtain 3.29 g (24.5 mmol, Yield: 61.1%) of 1-methoxy-2-vinylbenzene.

reactant | sodium hydride | 48.0 mmol, 1.92 g | [H-].[Na+]
reactant | 2-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 35 mL | CS(=O)C | C2H6OS
catalyst | methyl(triphenyl)phosphonium bromide | 48.2 mmol, 17.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-methoxy-2-vinylbenzene | 24.5 mmol, 3.29 g, Yield: 61.1% | COC1=C(C=CC=C1)C=C | C9H10O
